US07091228B2
To a solution of racemic methyl trans-2-[(4′-amino-1,1′-biphenyl-4-yl)carbonyl]cyclobutane-carboxylate (250 mg, 0.77 mmol) in n-butanol (15 mL) was added 2-chloro-4,6-difluoro-1,3-benzothiazole (318 mg, 1.55 mmol), and the resulting solution was heated at 90° C. overnight. The mixture was then evaporated to dryness under reduced pressure, and the residue was brought up in MeOH. Then 1 N aqueous NaOH (8.0 mL, 8.0 mmol) was added to the suspension, and the reaction mixture was stirred at 50° C. overnight. The reaction mixture was concentrated under reduced pressure, and the residue was suspended in water. Conc. HCl was added to adjust the acidity to pH 1, and the mixture was extracted with EtOAc. The combined organic phases were washed with brine, dried over sodium sulfate, filtered, and concentrated. The residue was brought up in MeOH, and the precipitate was collected by filtration, washed with MeOH, EtOAc, and DCM, and dried in a vacuum oven to afford racemic trans-2-({4′-[(4,6-difluoro-1,3-benzothiazol-2-yl)amino]-1,1-biphenyl-4-yl}-carbonyl)cyclopentanecarboxylic acid (160 mg, 43%). LC-MS ret. time 4.12; m/z 479.3 (MH+); 1H NMR (400 MHz, DMSO-d6) δ 1.55–1.86 (m, 4H), 2.00 (m, 1H), 2.18 (m, 1H), 3.22 (q, 1H), 4.01 (q, 1H), 7.28 (m, 1H), 7.65 (m, 1H), 7.82 (m, 4H), 7.88 (d, 2H), 8.05 (d, 2H), 10.83(s, 1H), 12.23 (s, 1H).

reactant | racemic methyl trans-2-[(4′-amino-1,1′-biphenyl-4-yl)carbonyl]cyclobutane-carboxylate | 0.77 mmol, 250 mg | NC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)[C@H]1[C@@H](CC1)C(=O)OC | C19H19NO3
reactant | 2-chloro-4,6-difluoro-1,3-benzothiazole | 1.55 mmol, 318 mg | ClC=1SC2=C(N1)C(=CC(=C2)F)F | C7H2ClF2NS
reactant | NaOH | 8.0 mmol, 1 N, 8.0 mL | [OH-].[Na+]
reactant | n-butanol | 15 mL | C(CCC)O | C4H10O
product | racemic trans-2-({4′-[(4,6-difluoro-1,3-benzothiazol-2-yl)amino]-1,1-biphenyl-4-yl}-carbonyl)cyclopentanecarboxylic acid | 160 mg, 43% | FC1=CC(=CC2=C1N=C(S2)NC2=CC=C(C=C2)C2=CC=C(C=C2)C(=O)[C@H]2[C@@H](CCC2)C(=O)O)F | C26H20F2N2O3S
